US04347191
5-Dimethylaminomethyl-2-furanmethanol can be converted into 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine by heating under reflux in acetic acid with cysteamine and can be further converted into various histamine H2 -antagonists for example, by reacting with a substituted pyrimidone to give 2-2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino-5-(6-methyl-3-pyridylmethyl-4-pyrimidone by methods described in EP 3677.

reactant | 5-Dimethylaminomethyl-2-furanmethanol | CN(C)CC1=CC=C(O1)CO | C8H13NO2
reactant | 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | cysteamine | NCCS | C2H7NS
reactant | histamine H2 | NCCC1=CNC=N1.[H][H]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-methyl-3-pyridylmethyl-4-pyrimidone | CC1=CC(NC(=N1)CC=1C=NC=CC1)=O | C11H11N3O
